US04036841
1-(3,4,5-Trimethoxybenzoyloxymethyl)-1-ethyl-1,2,3,4,6,7,12,12b-octahydro-indolo[2,3-a]quinolizine
1.30 g. (4.58 mmoles) of 1-hydroxymethyl-1-ethyl-1,2,3,4,6,7,12,12b-octahydro-indolo[2,3-a]quinolizine and 2.30 g. (10 mmoles) of 3,4,5-trimethoxybenzoyl chloride are dissolved in 15 ml. of absolute pyridine, and the solution is heated on a steam bath for 10 hours under a reflux condenser. The solution is evaporated in vacuo, and the oily residue is stirred first with a 5% sodium hydrocarbonate solution and then with distilled water. The separated solids are filtered off, dried, and recrystallized from methanol. 2.05 g. (93.5%) of the title compound are obtained as white crystals melting at 170°-171° C.

reactant | 1-hydroxymethyl-1-ethyl-1,2,3,4,6,7,12,12b-octahydro-indolo[2,3-a]quinolizine | 4.58 mmoles | OCC1(CCCN2CCC3=C(C12)NC1=CC=CC=C13)CC | C18H24N2O
reactant | 3,4,5-trimethoxybenzoyl chloride | 10 mmoles | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-(3,4,5-Trimethoxybenzoyloxymethyl)-1-ethyl-1,2,3,4,6,7,12,12b-octahydro-indolo[2,3-a]quinolizine | 93.5% | COC=1C=C(C(=O)OCC2(CCCN3CCC4=C(C23)NC2=CC=CC=C24)CC)C=C(C1OC)OC | C28H34N2O5
